Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3],0.2117681240199999
[H:1][C:2]([H:3])=[C:4]=[C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.69462083556
[H:1][C:2][O:4][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.22758577229
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-1.76518939213
[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]([H:4])=[C:5]([H:6])[H:7].[C:2](#[C:3])[C:8]([H:9])([H:10])[H:11],3.947572739790001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.4447570788
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],2.36469541115
[H:1][C:2]1=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[O:11]1>>[H:1][C:5](=[C:6][H:4])[O:11][C:2]#[C:3][C:7]([H:8])([H:9])[H:10],1.00680461196
[H:4].[O:1]=[C:2]=[C:3][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10],-4.640898416000001
[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.56840341491
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9],3.72512504591
[H:1][C:2]([H:3])=[C:4][H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.3907509415
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:5],1.7667388752900002
[H:1][O:2][C:3]([H:4])[C:5](=[C:6])[C:9]([C:7][H:8])([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5]1\[C:6][C:7]([H:8])[C:9]1([H:10])[H:11],-4.76754393878
[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.96792170513
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],1.51664634569
[C:1]#[C:2].[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.88711438124
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8])([H:9])[H:10]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8])[H:9].[H:10],1.83064227793
[C:1]=[C:2]([H:3])[H:4].[O:5]=[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],1.43293764918
[C:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](\[H:8])[O:10][O:11].[H:9]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11],-3.3322976585900004
[H:1][C:2][O:3]/[C:4](=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][C:2][O:3][C@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.012665883
[H:1][O:2][C:3]1([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],2.39872842
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3]\[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4],4.81677226667
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[O:11],1.69053424486
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[O:12][H:13].[H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13],-3.97257358937
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.41274795115
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.70513042516
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],7.24146689224
